US06107307
3-(isoquinolin-4-yl)-8-methyl-8-azabicyclo[3.2.1]octane
A mixture 3-(isoquinolin-4-yl)-8-methyl-8-azabicyclo[3.2.1]oct-2-ene and 5-palladium on carbon in methanol is stirred at room temperature for 3 days under a hydrogen atmosphere. The reaction mixture is then filtered and the filtrate concentrated under reduced pressure. The residue is subjected to flash silica gel chromatography. Fractions containing product are combined and concentrated under reduced pressure to provide the title compound.

reactant | 3-(isoquinolin-4-yl)-8-methyl-8-azabicyclo[3.2.1]oct-2-ene | C1=NC=C(C2=CC=CC=C12)C1=CC2CCC(C1)N2C | C17H18N2
solvent | methanol | CO | CH4O
product | 3-(isoquinolin-4-yl)-8-methyl-8-azabicyclo[3.2.1]octane | C1=NC=C(C2=CC=CC=C12)C1CC2CCC(C1)N2C | C17H20N2
